* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\HC-SR04_receiver.asc
XU1 N008 N001 vcc 0 N002 LM324
V1 N006 0 SINE(0 .1 40000)
V2 vcc 0 5
R1 N007 N006 10k
C1 N001 N007 10n
R2 N002 N001 62k
R3 N008 vcc 1k
R4 0 N008 1k
C2 N008 0 1µ2
C3 N008 0 150n
R5 N003 N002 2k2
R6 N008 N003 1k
C4 N005 N003 1n
C5 N004 N003 1n
C6 N004 N005 12p
R7 N004 N005 18k
XU2 N008 N005 vcc 0 N004 LM324
R8 0 N010 1k
C7 N010 0 1µ
D1 N009 N010 1N914
C8 N009 N004 100µ
.model D D
.lib C:\Users\shane\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib LM324.ti.lib
.tran .001
;ac dec 1001 10000 80000
.step param Rx list 1 2
.param var2 table(Rx,1,18k,2,75k)
.param var1 table(Rx,1,2k2,2,6k2)
.backanno
.end
