* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\HC-SR04_receiver.asc
XU1 N007 N001 vcc 0 N002 LM324
V2 vcc 0 5
R1 N006 out 10k
C1 N001 N006 10n
R2 N002 N001 62k
R3 N007 vcc 1k
R4 0 N007 1k
C2 N007 0 1µ2
C3 N007 0 150n
R5 N003 N002 2k2
R6 N007 N003 1k
C4 N005 N003 1n
C5 N004 N003 1n
C6 N004 N005 12p
R7 N004 N005 18k
XU2 N007 N005 vcc 0 N004 LM324
R8 0 N009 1k
C7 N009 0 100n
D1 N008 N009 1N914
C8 N008 N004 100µ
V3 exp1 0 EXP(0 2 0 .0002 0.1m .0002)
V4 sin1 0 SINE(0 .02 40000 0 0 0 8)
B1 out 0 V=V(exp1)*V(sin1)
.model D D
.lib C:\Users\shane\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib LM324.ti.lib
.tran .001
;ac dec 1001 10000 80000
.step param Rx list 1 2
.param var2 table(Rx,1,18k,2,75k)
.param var1 table(Rx,1,2k2,2,6k2)
.function mod(x,y) { (x/y)-int(x/y) }
.backanno
.end
