* C:\Users\shane\Documents\GitHub\coLAS\LTSpice\HC-SR04_receiver.asc
XU1 N009 N001 vcc 0 N002 LM324
V2 vcc 0 5
R1 N008 piezo_rx 10k
C1 N001 N008 10n
R2 N002 N001 62k
R3 N009 vcc 1k
R4 0 N009 1k
C2 N009 0 1µ2
C3 N009 0 150n
R5 N003 N002 2k2
R6 N009 N003 1k
C4 N005 N003 1n
C5 N004 N003 1n
C6 N004 N005 12p
R7 N004 N005 18k
XU2 N009 N005 vcc 0 N004 LM324
V3 exp1 0 EXP(0 2 0 .0001 0.1m .0001)
V4 sin1 0 SINE(0 .01 40000 0 0 0 40)
B1 piezo_rx 0 V=V(exp1)*V(sin1)
R9 N011 N004 10k
C9 N006 N011 10n
XU3 N009 N006 vcc 0 N007 LM324
R10 N007 N006 75k
R11 N014 N009 120k
R12 0 N014 3.3Meg
C10 N014 0 10n
C11 N010 N004 10n
R13 0 N010 10k
D1 N012 N013 D
R8 N013 0 10k
C7 N012 N007 .1µ
C8 N013 0 .01µ
.model D D
.lib C:\Users\shane\Documents\LTspiceXVII\lib\cmp\standard.dio
.lib LM324.ti.lib
.tran .001
.step param Rx list 1 2
.param var2 table(Rx,1,18k,2,75k)
.param var1 table(Rx,1,2k2,2,6k2)
.backanno
.end
